US03971773
F. 9,11β,21-Trichloro-17-hydroxy-16α-(2-oxopropoxy)pregna-1,4-diene-3,20-dione
A solution of 21-chloro-17-hydroxy-16α-(2-oxopropoxy)pregna-1,4,9(11)-triene-3,20-dione (4mmoles) and 7.2 g of lithium chloride in 72 ml of glacial acetic acid is stirred at 0°-5°C and 592 mg of N-chlorosuccinimide is added. A solution of 180 mg of dry hydrogen chloride in 2.9 ml of tetrahydrofuran is added and the resulting mixture stirred at room temperature for 2 hours, poured into 400 ml of cold water, and extracted with chloroform. The chloroform solution is washed with water, dried, and evaporated to give the title compound.

reactant | 21-chloro-17-hydroxy-16α-(2-oxopropoxy)pregna-1,4,9(11)-triene-3,20-dione | 4mmoles | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)OCC(C)=O)O)=O | C24H29ClO5
reactant | lithium chloride | 7.2 g | [Cl-].[Li+]
reactant | N-chlorosuccinimide | 592 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | hydrogen chloride | 180 mg | Cl | ClH
solvent | acetic acid | 72 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2.9 ml | O1CCCC1 | C4H8O
solvent | water | 400 ml | O | H2O
product | 9,11β,21-Trichloro-17-hydroxy-16α-(2-oxopropoxy)pregna-1,4-diene-3,20-dione | Cl[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CCl)=O)([C@]1(C[C@@H]2Cl)C)O)OCC(C)=O)=O)C | C24H29Cl3O5
